US08912330B2
4-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}-N-(2-hydroxyethyl)benzenesulfonamide
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and {4-[(2-hydroxyethyl)sulfamoyl]phenyl}boronic acid according to the procedure described in example 4.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | {4-[(2-hydroxyethyl)sulfamoyl]phenyl}boronic acid | OCCNS(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H12BNO5S
product | 4-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}-N-(2-hydroxyethyl)benzenesulfonamide | ClC1=C(C(=CC=C1F)Cl)C(C)ON1C=CC2=NC=C(C=C21)C2=CC=C(C=C2)S(=O)(=O)NCCO | C23H20Cl2FN3O4S
